US07851469B2
3-(4-Chloro-phenyl)-4-[1-(4-nitro-phenyl)-1H-imidazol-4-yl]-5-trifluoromethyl-isoxazole
As described for Example 44, 3-(4-chloro-phenyl)-4-(1H-imidazol-4-yl)-5-trifluoromethyl-isoxazole (100 mg, 0.32 mmol), using 1-fluoro-4-nitrobenzene instead of 4-fluoroacetophenone, was converted to the title compound (105 mg, 76%) which was obtained as a yellow solid. MS: m/e=492.9 [M+OAc]+.

reactant | 3-(4-chloro-phenyl)-4-(1H-imidazol-4-yl)-5-trifluoromethyl-isoxazole | 0.32 mmol, 100 mg | ClC1=CC=C(C=C1)C1=NOC(=C1C=1N=CNC1)C(F)(F)F | C13H7ClF3N3O
reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 3-(4-Chloro-phenyl)-4-[1-(4-nitro-phenyl)-1H-imidazol-4-yl]-5-trifluoromethyl-isoxazole | 105 mg, 76% | ClC1=CC=C(C=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC=C(C=C1)[N+](=O)[O-])C(F)(F)F | C19H10ClF3N4O3
